### PR TITLE
[Merged by Bors] - feat: port Data.Nat.Multiplicity

### PR DESCRIPTION
**Pull request by mattrobball**
---

Started but got pulled away. Feel free to jump in. 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Multiplicity.lean [hunk 1]
```diff
@@ -272,22 +260,24 @@ theorem dvd_choose_pow (hp : Prime p) (hk : k ≠ 0) (hkp : k ≠ p ^ n) : p ∣
...
   have h2 := prime_two.prime
-  refine' binary_rec _ _
-  · contradiction
+  refine' binaryRec _ _
+  · exact fun h => False.elim <| h rfl
   · intro b n ih h
     by_cases hn : n = 0
     · subst hn
       simp at h
       simp [h, one_right h2.not_unit]
```
Comment (RemyDegenne) [inline Mathlib/Data/Nat/Multiplicity.lean:276]: This is a non-terminal simp, right? Please replace it by a `simp only`

Comment (mattrobball) [reply Mathlib/Data/Nat/Multiplicity.lean]: That must have been from mathlib3 but it is fixed now.

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
